US08808703B2
Step 3: diethyl 3-(2-(2-aminoethoxy)ethoxy)-1,1-difluoropropylphosphonate hydrochloride
To a solution of diethyl 3-(2-(2-azidoethoxy)ethoxy)-1,1-difluoropropylphosphonate (1 eq) in EtOH (2 M) solution was added palladium hydroxide (0.05 eq) and 2 M HCl in ether (1.1 eq). The reaction mixture was stirred under hydrogen (1 atm) overnight. The palladium was filtered off and the filtrate was concentrated en vaccuo. The crude mixture was used for the next reaction without further purification.

reactant | diethyl 3-(2-(2-azidoethoxy)ethoxy)-1,1-difluoropropylphosphonate | 1 eq | N(=[N+]=[N-])CCOCCOCCC(F)(F)P(OCC)(OCC)=O | C11H22F2N3O5P
reactant | HCl | 2 M | Cl | ClH
reactant | ether | 1.1 eq | CCOCC | C4H10O
solvent | EtOH | 2 M | CCO | C2H6O
catalyst | palladium hydroxide | 0.05 eq | [OH-].[Pd+2].[OH-]
product | diethyl 3-(2-(2-aminoethoxy)ethoxy)-1,1-difluoropropylphosphonate hydrochloride | Cl.NCCOCCOCCC(F)(F)P(OCC)(OCC)=O | InChI=1S/C11H24F2NO5P.ClH/c1-3-18-20(15,19-4-2)11(12,13)5-7-16-9-10-17-8-6-14;/h3-10,14H2,1-2H3;1H
